.title SN74LS00_sim
.include SN74LS00.cir

Vs s 0 5v
Va a 0 5v
Vb b 0 dc 0 PULSE(0v 5v 0s 1ms 1ms 1s 2002ms)

Rs s_ s  5k
Ry y  0 20k

XSN74LS00 y a b s_ 0 SN74LS00

.control
  tran 1ms 8s
  plot a b y
.endc
